US06747023B1
2-(tert-Butyldiphenylsilyloxy)methyl-1,4-dibenzylpiperazine
In N,N-dimethylformamide (20 ml) were dissolved 1,4-dibenzyl-2-hydroxymethylpiperazine (1.11 g) and imidazole (347 mg). Under ice cooling, tert-butylchlorodiphenylsilane (1.17 ml, 1.24 g) was added to the reaction mixture, followed by stirring at room temperature for 14.5 hours. The solvent was distilled off under reduced pressure. The residue was extracted with ethyl acetate and a saturated aqueous solution of sodium bicarbonate. The organic layer was then washed with saturated aqueous NaCl solution, dried over anhydrous sodium sulfate and distilled under reduced pressure to remove the solvent. The residue was subjected to column chromatography (hexane:ethyl acetate=9:1→8:2) using as a carrier silica gel, whereby the title compound (1.42 g) was obtained.

reactant | 1,4-dibenzyl-2-hydroxymethylpiperazine | 1.11 g | C(C1=CC=CC=C1)N1C(CN(CC1)CC1=CC=CC=C1)CO | C19H24N2O
reactant | imidazole | 347 mg | N1C=NC=C1 | C3H4N2
reactant | tert-butylchlorodiphenylsilane | 1.17 ml, 1.24 g | C(C)(C)(C)[Si](C1=CC=CC=C1)(C1=CC=CC=C1)Cl | C16H19ClSi
solvent | N,N-dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | 2-(tert-Butyldiphenylsilyloxy)methyl-1,4-dibenzylpiperazine | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OCC1N(CCN(C1)CC1=CC=CC=C1)CC1=CC=CC=C1 | C35H42N2OSi
